US07687491B2
{5-[5-(4-Phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methanol
To a solution of 4-phenoxybenzoic acid (0.12 g, 0.55 mmol) in acetonitrile (5 ml) were added successively 1-hydroxybenzotriazole (88 mg, 0.65 mmol) 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.12 g, 0.60 mmol), 5-({[t-butyl(dimethyl)silyl]oxy}methyl)-N′-hydroxythiophene-2-carboximidamide (0.14 g, 0.5 mmol) that was obtained in Example 4 (4b) with stirring, and the resulting mixture was stirred at room temperature for 30 minutes. After stirring, water (5 ml) was added to the reaction mixture to quench the reaction, and the resulting mixture was extracted with ethyl acetate. The extract was washed successively with 0.1N hydrochloric acid, a saturated aqueous solution of sodium hydrogencarbonate and a saturated aqueous solution of sodium chloride and dried over sodium sulfate. After filtration, the filtrate was evaporated in vacuo. Subsequently, to a solution of the residue obtained in tetrahydrofuran (4.0 ml) was added tetrabutylammonium fluoride (a 1.0 M solution in tetrahydrofuran, 1.0 ml, 11.0 mmol) with stirring, and the resulting mixture was stirred at 60° C. for 3 hours. After stirring, the reaction mixture was poured into water (20 ml) to quench the reaction and extracted with ether. The extract was washed with a saturated aqueous solution of sodium chloride and dried over sodium sulfate. After filtration, the filtrate was evaporated in vacuo, and the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:1) as the eluent to afford the title compound (97 mg) in a yield of 55% as a white crystalline solid.

reactant | 4-phenoxybenzoic acid | 0.55 mmol, 0.12 g | O(C1=CC=CC=C1)C1=CC=C(C(=O)O)C=C1 | C13H10O3
reactant | 1-hydroxybenzotriazole | 0.65 mmol, 88 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 5-({[t-butyl(dimethyl)silyl]oxy}methyl)-N′-hydroxythiophene-2-carboximidamide | 0.5 mmol, 0.14 g | [Si](C)(C)(C(C)(C)C)OCC1=CC=C(S1)C(N)=NO | C12H22N2O2SSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | {5-[5-(4-Phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methanol | yield of 55% | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NC(=NO1)C1=CC=C(S1)CO | C19H14N2O3S
